US05580986
4. 3-Hydrazino-1-methyl-5-methylmercaptopyrazole
1.1 g (15.8 mmol) sodium nitrite in 4 ml water was added dropwise to 1.9 g (13.1 mmol) 3-amino-1-methyl-5-methylmercaptopyrazole in 28 ml concentrated hydrochloric acid at 0° C. and the mixture stirred for 2 hours at 0° C. Then, at -30° C., a solution of 7.4 g (32.8 mmol) SnCl2.2H2O in 5.5 ml concentrated hydrochloric acid was added dropwise and the mixture stirred for 3 hours at this temperature. The reaction mixture was then made basic with 32% caustic soda and extracted with methylene chloride. The organic phase was dried over sodium sulfate and concentrated. 2.0 g of product was obtained which was used without further purification.

reactant | sodium nitrite | 15.8 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | 3-amino-1-methyl-5-methylmercaptopyrazole | 13.1 mmol, 1.9 g | NC1=NN(C(=C1)SC)C | C5H9N3S
reactant | SnCl2.2H2O | 32.8 mmol, 7.4 g | O.O.Cl[Sn]Cl
reactant | caustic soda | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | hydrochloric acid | 28 ml | Cl | ClH
solvent | hydrochloric acid | 5.5 ml | Cl | ClH
product | 3-Hydrazino-1-methyl-5-methylmercaptopyrazole | 2.0 g | N(N)C1=NN(C(=C1)SC)C | C5H10N4S
